US05017212
2,6-Dichloroimidazo[1,2-a]pyridine
Chloroacetic acid (9.5 g) is dissolved in 70 ml of acetonitrile, to which 10.1 g of triethylamine is portionwise added and further 12.9 g of 2-amino-5-chloropyrdine is added. The mixture is refluxed for 3 hours. After cooling, the precipitated 2-imino-5-chloro-1,2-dihydropyridin-1-ylacetic acid as crystals is collected by filtration and dried. The crystals are added to 40 ml of phosphorus oxychoride and refluxed for 5 hours. After cooling, the reaction mixture is poured into ice water and neutralized with aqueous ammonia. The precipitate collected by filtration is purified by silica gel chromatography(eluent: ethyl acetate) to give 2.1 g of the title compound as crystals. mp. 155°-156° C.

reactant | Chloroacetic acid | 9.5 g | ClCC(=O)O | C2H3ClO2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-5-chloropyrdine | 12.9 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 2,6-Dichloroimidazo[1,2-a]pyridine | 2.1 g | ClC=1N=C2N(C=C(C=C2)Cl)C1 | C7H4Cl2N2
